US05763458
1-[4-Amino-5-chloro-2-methoxyphenyl]-3-{1-[2-(methylsulfonyl) aminoethyl]-piperidin-4-yl}propan-1-one (1.19 g, 2.8 mmol), prepared as in Example 11, was dissolved in dichloroethane (50 mL). Boron tribromide in methylene chloride (4 mL, 1.0 g, 4.0 mmol) was added and the mixture was stirred for approximately 12 hours. The mixture was then poured over ice and methylene chloride (150 mL) and ammonium hydroxide) were added. This bilayer mixture was stirred until a solution had formed in the methylene chloride layer. The aqueous layer was removed and combined with fresh methylene chloride (100 mL) and this bilayer mixture was stirred. The methylene chloride layers were combined and dried over potassium carbonate. Filtration and concentration gave 1-(4-amino-5-chloro-2-hydroxyphenyl)-3-{1-[2-(methylsulfonyl)aminoethyl]piperidin-4-yl}propan-1-one (0.8 g, 2.0 -mmol)

reactant | 1-[4-Amino-5-chloro-2-methoxyphenyl]-3-{1-[2-(methylsulfonyl) aminoethyl]-piperidin-4-yl}propan-1-one | 2.8 mmol, 1.19 g | NC1=CC(=C(C=C1Cl)C(CCC1CCN(CC1)CCNS(=O)(=O)C)=O)OC | C18H28ClN3O4S
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | methylene chloride | 4.0 mmol, 4 mL, 1.0 g | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 1-(4-amino-5-chloro-2-hydroxyphenyl)-3-{1-[2-(methylsulfonyl)aminoethyl]piperidin-4-yl}propan-1-one | 0.8 g | NC1=CC(=C(C=C1Cl)C(CCC1CCN(CC1)CCNS(=O)(=O)C)=O)O | C17H26ClN3O4S
